US07115607B2
Methyl 2-piperazinylbenzoate
The title compound was prepared according to the procedure described in Preparation IV by using methyl 2-[4-benzylpiperazinyl]benzoate (2.8 g, 8.9 mmol), 10% Pd/C (Aldrich) (940 mg), and HCO2NH4 (2.8, 44 mmol). The title compound was isolated as a colorless oil (1.75 g). (MS (ESI, pos. ion) m/z: 221 (M+H). Calc'd for C12H16N2O2: 220.12.

reactant | methyl 2-[4-benzylpiperazinyl]benzoate | 8.9 mmol, 2.8 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C(=O)OC)C=CC=C1 | C19H22N2O2
catalyst | Pd/C | 940 mg | [Pd] | Pd
product | Methyl 2-piperazinylbenzoate | N1(CCNCC1)C1=C(C(=O)OC)C=CC=C1 | C12H16N2O2
